### PR TITLE
[Merged by Bors] - chore: sync Data. Nat.Fib

### PR DESCRIPTION
**Pull request by joneugster**
---

~~Porting this file had worked around using `wlog`. Now that it is available again, I thought I restore the proof to match
mathlib3.~~ Now the proof has been even further simplified, so it does not use `wlog` anymore.

* [`data.nat.fib`@`008205aa645b3f194c1da47025c5f110c8406eab`..`92ca63f0fb391a9ca5f22d2409a6080e786d99f7`](https://leanprover-community.github.io/mathlib-port-status/file/data/nat/fib?range=008205aa645b3f194c1da47025c5f110c8406eab..92ca63f0fb391a9ca5f22d2409a6080e786d99f7)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Fib.lean [hunk 1]
```diff
@@ -291,25 +289,14 @@ theorem gcd_fib_add_mul_self (m n : ℕ) : ∀ k, gcd (fib m) (fib (n + k * m))
...
-    apply @Nat.gcd.induction _ m n
-    case H0 => simp
-    intro n m _ h
-    rw [←gcd_rec n m] at h
-    conv_rhs =>
-      rw [← mod_add_div' m n]
-    rw [gcd_fib_add_mul_self n (m % n) (m / n)]
-    rwa [gcd_comm (fib n) _]
+  wlog h : m ≤ n
+  · simpa only [gcd_comm] using this _ _ (le_of_not_le h)
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Fib.lean:293]: This proof is bizarre, it works with these lines deleted.

**Comment by semorrison** [comment]
bors merge
